US04200641
A mixture of 30 parts of 1H-benzimidazole, 49 parts of 2-(4-chlorobutoxy)-tetrahydro-2H-pyran, 21 parts of potassium hydroxide and 200 parts of ethanol is stirred and refluxed overnight. The reaction mixture is cooled to room temperature, filtered and the filtrate is evaporated. The residue is stirred in water and acidified with a diluted hydrochloric acid solution. The whole is stirred and heated for 30 minutes in a water-bath. After cooling to room temperature, the product is extracted with methylbenzene. The aqueous phase is separated and alkalized with ammonium hydroxide. The product is extracted with dichloromethane. The extract is dried, filtered and evaporated, yielding 1H-benzimidazole-1-butanol as an oily residue.

reactant | 1H-benzimidazole | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | 2-(4-chlorobutoxy)-tetrahydro-2H-pyran | ClCCCCOC1OCCCC1 | C9H17ClO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1H-benzimidazole-1-butanol | N1(C=NC2=C1C=CC=C2)CCCCO | C11H14N2O
